US07977331B1
To a suspension of methyl 2-bromo-3-cyclohexyl-1-(2-ethoxycarbonylethyl)-1H-indole-6-carboxylate (1.00 g, 2.29 mmol) and 2-dioxaborolan-2-yl)phenylamine (697 mg, 2.75 mmol) in 1,2-dimethoxyethane (12 ml) and water (6 ml) were added lithium chloride (291 mg, 6.87 mmol), sodium carbonate (729 mg, 6.87 mmol) and tetrakis(triphenyl)phosphine)palladium (265 mg, 0.229 mmol), and the mixture was stirred at 90° C. for 3.5 hr. The mixture was allowed to cool to room temperature and saturated aqueous ammonium chloride solution and ethyl acetate were added. The mixture was filtered through celite, and the filtrate was washed with saturated brine and dried over anhydrous sodium sulfate. After filtration, the solvent was evaporated under reduced pressure and the residue was purified by silica gel chromatography (hexane:acetone=3:1) to give methyl 2-(2-amino-4-chlorophenyl)-3-cyclohexyl-1-(2-ethoxycarbonylethyl)-1H-indole-6-carboxylate (1.10 g, yield 100%).

reactant | methyl 2-bromo-3-cyclohexyl-1-(2-ethoxycarbonylethyl)-1H-indole-6-carboxylate | 2.29 mmol, 1.00 g | BrC=1N(C2=CC(=CC=C2C1C1CCCCC1)C(=O)OC)CCC(=O)OCC | C21H26BrNO4
reactant | phenylamine | 2.75 mmol, 697 mg | C1(=CC=CC=C1)N | C6H7N
reactant | lithium chloride | 6.87 mmol, 291 mg | [Cl-].[Li+]
reactant | sodium carbonate | 6.87 mmol, 729 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | 1,2-dimethoxyethane | 12 ml | COCCOC | C4H10O2
solvent | water | 6 ml | O | H2O
catalyst | palladium | 0.229 mmol, 265 mg | [Pd] | Pd
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 2-(2-amino-4-chlorophenyl)-3-cyclohexyl-1-(2-ethoxycarbonylethyl)-1H-indole-6-carboxylate | 1.10 g, yield 100% | NC1=C(C=CC(=C1)Cl)C=1N(C2=CC(=CC=C2C1C1CCCCC1)C(=O)OC)CCC(=O)OCC | C27H31ClN2O4
